US08703802B2
(S)-N-(tert-butoxycarbonyl)-N-methyl-4-penten-2-amine
A solution of (S)-N-methyl-4-penten-2-amine in MTBE was charged over time at ambient temperature to a solution of Boc2O (113 kg, 518 mol) in MTBE (110 L). The mixture was stirred until more than 99.5% of (S)-N-methyl-4-penten-2-amine had been consumed (using GC). DMAEA (11.5 kg, 130 mol) was added over time at ambient temperature and the mixture was stirred until more than 99.5% of the Boc2O had been consumed (using GC). Water (370 kg) was added, and hydrochloric acid was added until pH≦2. The phases were separated and the organic phase was washed with aqueous sodium chloride solution. The organic phase was evaporated to remove the solvent and further distilled under vacuum and heat to yield the title compound (125 kg).

reactant | (S)-N-methyl-4-penten-2-amine | CN[C@@H](C)CC=C | C6H13N
reactant | Boc2O | 518 mol, 113 kg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | MTBE | 110 L | CC(C)(C)OC | C5H12O
product | (S)-N-(tert-butoxycarbonyl)-N-methyl-4-penten-2-amine | 125 kg | C(C)(C)(C)OC(=O)N([C@@H](C)CC=C)C | C11H21NO2
